US06248770B1
d. (R)-2-tert.butyloxycarbonylamino-2-(4-chloro-3-nitro-phenyl)-propionic Acid
Prepared analogously to Example 5d from (R)-(−)-2-amino-2-(4-chloro-3-nitro-phenyl)-propionic acid and di-tert.butyl pyrocarbonate and triethylamine in dioxane.

reactant | (R)-(−)-2-amino-2-(4-chloro-3-nitro-phenyl)-propionic acid | N[C@](C(=O)O)(C)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C9H9ClN2O4
reactant | di-tert.butyl pyrocarbonate | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (R)-2-tert.butyloxycarbonylamino-2-(4-chloro-3-nitro-phenyl)-propionic Acid | C(C)(C)(C)OC(=O)N[C@](C(=O)O)(C)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C14H17ClN2O6
